US05041462
Preparation of 2-(acetoxyacetylamino)-6-chlorobenzonitrile:
To a solution of 2-amino-6-chlorobenzonitrile (4.6 g) in chloroform (100 ml) is added triethylamine (4.8 ml), and thereto is added dropwise acetoxyacetyl chloride (3.8 ml). The mixture is stirred at room temperature for 1 hour, and thereafter, water is added thereto, and the mixture is extracted with chloroform. The organic layer is washed with saturated aqueous sodium chloride and then dried over anhydrous sodium sulfate, and the solvent is distilled off under reduced pressure. The resulting crude crystals are recrystallized from ethanol-water to give the title compound (3.8 g) having the following physical properties.

reactant | 2-amino-6-chlorobenzonitrile | 4.6 g | NC1=C(C#N)C(=CC=C1)Cl | C7H5ClN2
reactant | triethylamine | 4.8 ml | C(C)N(CC)CC | C6H15N
reactant | acetoxyacetyl chloride | 3.8 ml | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | water | O | H2O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(acetoxyacetylamino)-6-chlorobenzonitrile | 3.8 g | C(C)(=O)OCC(=O)NC1=C(C#N)C(=CC=C1)Cl | C11H9ClN2O3
